US04024139
Preparation of 2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b) (1,3)benzoxazin-10-one
Salicylhydroxamic acid (30 g.) and 36 g. of 4-chlorobutyraldehyde diethyl acetal were allowed to react in acetic acid as described in Example 1. The reaction mixture was transferred to an ice-water mixture, stirred well, and decanted to remove the aqueous layer. The oil was washed again with water and allowed to stand at room temperature whereupon crystallization occurred. Aqueous solution of ammonium hydroxide was added, mixture was warmed and stirred and then allowed to stand overnight at room temperature. The aqueous solution was decanted from the partially crystallized oil and the latter was triturated with ethanol yielding 9.5 g. of solid melting at 137.5°-139.5° C. After recrystallization from methanol, the product (7 g.) melted at 139°-141° C.

reactant | Salicylhydroxamic acid | 30 g | C(C=1C(O)=CC=CC1)(=O)NO | C7H7NO3
reactant | 4-chlorobutyraldehyde diethyl acetal | C(C)OC(CCCCl)OCC | C8H17ClO2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 2,3,4,4a-tetrahydro-10H-1,2-oxazino(3,2-b) (1,3)benzoxazin-10-one | O1CCCC2OC3=C(C(N21)=O)C=CC=C3 | C11H11NO3
